US04220644
To a mixture of 25.37 g. (0.143 mol.) of methyl 2-carboxyethyldithiocarbamate and 5.6 g. (0.143 mol.) of sodium hydroxide in 210 ml. of water was added 9.25 g. (0.143 mol.) of sodium azide. The reaction mixture was refluxed for one hour then cooled, diluted with 100 ml. of ether and acidified to pH 1.7. The layers were separated, the aqueous phase was extracted with ether and the combined extracts were dried (MgSO4) and evaporated to dryness to give a residue which was recrystallized from acetone-chloroform to give 1-(2-carboxyethyl)tetrazole-5-thiol, m.p. 158°-160°.

reactant | methyl 2-carboxyethyldithiocarbamate | 0.143 mol | C(=O)(O)CCNC(SC)=S | C5H9NO2S2
reactant | sodium hydroxide | 0.143 mol | [OH-].[Na+]
reactant | water | O | H2O
reactant | sodium azide | 0.143 mol | [N-]=[N+]=[N-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 1-(2-carboxyethyl)tetrazole-5-thiol | C(=O)(O)CCN1N=NN=C1S | C4H6N4O2S
